Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[cH:3][cH:4][c:5]([C:6]#[N:7])[cH:8][cH:9]1)=[O:10].[CH3:11][c:12]1[n:13][cH:14][c:15]([CH2:16][NH2:17])[c:18]2[c:19]1[O:20][C:21]([CH3:22])([CH3:23])[O:24][CH2:25]2>>[C:1]([c:2]1[cH:3][cH:4][c:5]([C:6]#[N:7])[cH:8][cH:9]1)(=[O:10])[NH:17][CH2:16][c:15]1[cH:14][n:13][c:12]([CH3:11])[c:19]2[c:18]1[CH2:25][O:24][C:21]([CH3:22])([CH3:23])[O:20]2,[CH3:11][c:12]1[n:13][cH:14][c:15]([CH2:16][NH2:17])[c:18]2[c:19]1[O:20][C:21]([CH3:22])([CH3:23])[O:24][CH2:25]2.[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5]([C:6]#[N:7])[cH:8][cH:9]1)=[O:10].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5]([C:6]#[N:7])[cH:8][cH:9]1)(=[O:10])[NH:17][CH2:16][c:15]1[cH:14][n:13][c:12]([CH3:11])[c:19]2[c:18]1[CH2:25][O:24][C:21]([CH3:22])([CH3:23])[O:20]2,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (17, 1), ([1, 10], 10), (303, 17.1), ([17.1, 17], 17), (10, [10, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][c:7]([Br:8])[s:9]1.[CH3:10][O:11][c:12]1[n:13][c:14]([Cl:15])[cH:16][n:17][c:18]1[NH2:19]>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][c:7]([Br:8])[s:9]1)[NH:19][c:18]1[c:12]([O:11][CH3:10])[n:13][c:14]([Cl:15])[cH:16][n:17]1,[Cl:101][S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][c:7]([Br:8])[s:9]1.[CH3:10][O:11][c:12]1[n:13][c:14]([Cl:15])[cH:16][n:17][c:18]1[NH2:19]>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][c:7]([Br:8])[s:9]1)[NH:19][c:18]1[c:12]([O:11][CH3:10])[n:13][c:14]([Cl:15])[cH:16][n:17]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(19, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][cH:4][c:5]2[nH:6][n:7][c:8](-[c:9]3[nH:10][c:11]4[cH:12][c:13]5[c:14]([cH:15][c:16]4[n:17]3)[C:18]([CH3:19])([CH3:20])[C:21](=[O:22])[NH:23]5)[c:24]2[cH:25]1)=[O:26].[CH3:27][CH2:28][NH2:29]>>[C:1]([c:2]1[cH:3][cH:4][c:5]2[nH:6][n:7][c:8](-[c:9]3[nH:10][c:11]4[cH:12][c:13]5[c:14]([cH:15][c:16]4[n:17]3)[C:18]([CH3:19])([CH3:20])[C:21](=[O:22])[NH:23]5)[c:24]2[cH:25]1)(=[O:26])[NH:29][CH2:28][CH3:27],[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5]2[nH:6][n:7][c:8](-[c:9]3[nH:10][c:11]4[cH:12][c:13]5[c:14]([cH:15][c:16]4[n:17]3)[C:18]([CH3:19])([CH3:20])[C:21](=[O:22])[NH:23]5)[c:24]2[cH:25]1)=[O:26].[CH3:27][CH2:28][NH2:29].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5]2[nH:6][n:7][c:8](-[c:9]3[nH:10][c:11]4[cH:12][c:13]5[c:14]([cH:15][c:16]4[n:17]3)[C:18]([CH3:19])([CH3:20])[C:21](=[O:22])[NH:23]5)[c:24]2[cH:25]1)(=[O:26])[NH:29][CH2:28][CH3:27],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (29, 1), ([1, 26], 26), (303, 29.1), ([29.1, 29], 29), (26, [26, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[c:3]([C:4]([CH2:5][CH2:6][CH2:7][CH2:8][CH3:9])=[O:10])[c:11](-[c:12]2[cH:13][cH:14][c:15]([O:16][CH3:17])[c:18]([O:19][CH3:20])[cH:21]2)[c:22]2[c:23]([n:24]1)[cH:25][c:26]([O:27][CH3:28])[c:29]([O:30][CH3:31])[cH:32]2.[CH3:33][n:34]1[cH:35][cH:36][n:37][c:38]1[SH:39]>>[CH2:1]([c:2]1[c:3]([C:4]([CH2:5][CH2:6][CH2:7][CH2:8][CH3:9])=[O:10])[c:11](-[c:12]2[cH:13][cH:14][c:15]([O:16][CH3:17])[c:18]([O:19][CH3:20])[cH:21]2)[c:22]2[c:23]([n:24]1)[cH:25][c:26]([O:27][CH3:28])[c:29]([O:30][CH3:31])[cH:32]2)[S:39][c:38]1[n:34]([CH3:33])[cH:35][cH:36][n:37]1,[Br:101][CH2:1][c:2]1[c:3]([C:4]([CH2:5][CH2:6][CH2:7][CH2:8][CH3:9])=[O:10])[c:11](-[c:12]2[cH:13][cH:14][c:15]([O:16][CH3:17])[c:18]([O:19][CH3:20])[cH:21]2)[c:22]2[c:23]([n:24]1)[cH:25][c:26]([O:27][CH3:28])[c:29]([O:30][CH3:31])[cH:32]2.[CH3:33][n:34]1[cH:35][cH:36][n:37][c:38]1[SH:39].[H-:301].[Na+]>>[CH2:1]([c:2]1[c:3]([C:4]([CH2:5][CH2:6][CH2:7][CH2:8][CH3:9])=[O:10])[c:11](-[c:12]2[cH:13][cH:14][c:15]([O:16][CH3:17])[c:18]([O:19][CH3:20])[cH:21]2)[c:22]2[c:23]([n:24]1)[cH:25][c:26]([O:27][CH3:28])[c:29]([O:30][CH3:31])[cH:32]2)[S:39][c:38]1[n:34]([CH3:33])[cH:35][cH:36][n:37]1,SN2_alcohol(thiol),"[(301, 39.1), ([39.1, 39], 39), (39, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
